US04149848
2nd Stage: Preparation of 2-chloro-4-amino-N-tetrahydrofurfurylaniline monohydrochloride
3.0 g of ammonium chloride and 50 g of zinc powder are added to 150 ml of an aqueous-alcoholic solution (85% of alcohol and 15% of water). This mixture is heated to the reflux temperature, whilst stirring, and 0.1 mol (25.7 g) of 2-chloro-4-nitro-N-tetrahydrofurfurylaniline is then added gradually. When the addition has ended and the reaction mixture is decolorised, the latter is filtered and the filtrate is collected in 20 ml of ice-cooled hydrochloric acid. After cooling, the expected hydrochloride precipitates in the form of crystals. It is filtered off, washed with a small amount of ice-cooled absolute alcohol and dried in vacuo. It melts at about 170° C. with decomposition.

reactant | ammonium chloride | 3.0 g | [Cl-].[NH4+]
reactant | 2-chloro-4-nitro-N-tetrahydrofurfurylaniline | 0.1 mol, 25.7 g | ClC1=C(NCC2CCCO2)C=CC(=C1)[N+](=O)[O-] | C11H13ClN2O3
catalyst | zinc | 50 g | [Zn] | Zn
product | 2-chloro-4-amino-N-tetrahydrofurfurylaniline monohydrochloride | Cl.ClC1=C(NCC2CCCO2)C=CC(=C1)N | InChI=1S/C11H15ClN2O.ClH/c12-10-6-8(13)3-4-11(10)14-7-9-2-1-5-15-9;/h3-4,6,9,14H,1-2,5,7,13H2;1H
